US08895580B2
Step 2: Preparation of 2-[2-(azidomethyl)phenyl]-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one
[2-(3-oxo-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-3,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)phenyl]methyl methanesulfonate (0.21 g, 0.51 mmol) was dissolved in dimethyl sulfoxide (10 mL) and treated with sodium azide (0.33 g, 5.1 mmol, 10 equiv). The mixture was stirred for 45 minutes at ambient temperature and then placed into a preheated oil bath at 80° C. for 1 hour. The mixture was cooled to ambient temperature, poured into sodium bicarbonate (100 mL, aqueous saturated) and extracted with ethyl acetate (3×100 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 0:100; hexanes:ethyl acetate containing 5% methanol), providing the titled compound: 1H-NMR (400 MHz, d6-DMSO) δ 9.17 (1H, s), 8.46 (1H, d, J=2.5 Hz), 8.23 (1H, d, J=7.8 Hz), 7.83 (2H, d, J=8.6 Hz), 7.79 (1H, d, J=8.6 Hz), 7.72 (1H, m), 7.65-7.61 (1H, m), 7.57-7.54 (3H, m), 7.51 (1H, br d, J=7.6 Hz), 7.49-7.45 (3H, m), 6.53 (1H, m), 5.78 (2H, s), 4.60 (2H, s) ppm; high resolution mass spectrometry (ES+) m/z 473.1823 [(M+H)+; calculated for C27H21N8O: 473.1833].

reactant | [2-(3-oxo-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-3,5-dihydro-2H-pyrazolo[4,3-c]quinolin-2-yl)phenyl]methyl methanesulfonate | 0.51 mmol, 0.21 g | CS(=O)(=O)OCC1=C(C=CC=C1)N1N=C2C(=CN(C=3C=CC=CC23)CC2=CC=C(C=C2)N2N=CC=C2)C1=O | C28H23N5O4S
reactant | sodium azide | 5.1 mmol, 0.33 g, 10 equiv | [N-]=[N+]=[N-].[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 2-[2-(azidomethyl)phenyl]-5-{[4-(1H-pyrazol-1-yl)phenyl]methyl}-2,5-dihydro-3H-pyrazolo[4,3-c]quinolin-3-one | N(=[N+]=[N-])CC1=C(C=CC=C1)N1N=C2C(=CN(C=3C=CC=CC23)CC2=CC=C(C=C2)N2N=CC=C2)C1=O | C27H20N8O
